US04154935
A mixture of thiolactic acid (50 g.) and 2-(trifluoromethyl)acrylic acid [M. W. Buxton, et al., J. Chem. Soc., 366 (1954)] (66 g.) is heated on the steam bath for one hour and then stored at room temperature for eighteen hours. The reaction mixture is distilled in vacuo to give 3-acetylthio-2-trifluoromethylpropanoic acid.

reactant | thiolactic acid | 50 g | C(C(O)C)(=S)O | C3H6O2S
reactant | 2-(trifluoromethyl)acrylic acid | 66 g | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
product | 3-acetylthio-2-trifluoromethylpropanoic acid | C(C)(=O)SCC(C(=O)O)C(F)(F)F | C6H7F3O3S
